US07947692B2
A solution of (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester (1.5 g, 0.0049 mol) in acetonitrile (80 mL) at 25° C. was treated with pyrrolidin-3(R)-yl-carbamic acid tert-butyl ester (0.92 g, 0.049 mol). The reaction mixture was heated at reflux for 1 h. It was then cooled to 25° C. and concentrated in vacuo. The residue was triturated with ether, filtered and dried in vacuo to afford [1-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-pyrrolidin-3(R)-yl]-carbamic acid tert-butyl ester (1.99 g, 99%); LRMS for C16H22N6O4S (M+H) at m/z 395.

reactant | (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester | 0.0049 mol, 1.5 g | C1(=CC=CC=C1)OC(NC=1SC=2N=CN=C(C2N1)OC)=O | C13H10N4O3S
reactant | pyrrolidin-3(R)-yl-carbamic acid tert-butyl ester | 0.049 mol, 0.92 g | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | [1-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-pyrrolidin-3(R)-yl]-carbamic acid tert-butyl ester | 1.99 g, 99% | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(NC=1SC=2N=CN=C(C2N1)OC)=O)=O | C16H22N6O4S
